US04477464
A suspension of 1.93 g of 3-phthalimido-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one in 60 ml of absolute ethanol is treated with 0.31 ml of hydrazine hydrate and the reaction mixture is heated to reflux for 1.5 hr. After cooling at room temperature, the solid is removed by filtration and the filtrate is concentrated in vacuo. The residue is dissolved in chloroform and filtered and concentrated again to afford 3-amino-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one.

reactant | 3-phthalimido-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | 1.93 g | C1(C=2C(C(N1C1CN(C3=C(NC1=O)C=CC=C3)C)=O)=CC=CC2)=O | C18H15N3O3
reactant | hydrazine hydrate | 0.31 ml | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-amino-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | NC1CN(C2=C(NC1=O)C=CC=C2)C | C10H13N3O
